US07163936B2
To a solution of tert-butyl (3S)-3-{[(benzyloxy)carbonyl]amino}-4-hydroxybutanoate (14.26 g, 46.1 mmol) in dichloromethane (190 ml) were added under ice cooling 4-dimethylaminopyridine (0.28 g, 2.3 mmol), diisopropylethylamine (24 ml, 138 mmol) and chloromethyl methyl ether (105 ml, 138 mmol). The mixture was raised to room temperature. Twelve hours later, to the mixture were added ice water and 1N hydrochloric acid under cooling in an ice bath to adjust pH to about 3. To the mixture was added a saturated aqueous sodium chloride solution and the solution was separated with a separating funnel. The organic layer was washed once with water and twice with a saturated aqueous sodium chloride solution and dried over magnesium sulfate. The solvent was removed in vacuo to give tert-butyl(3S)-3-{[(benzyloxy)carbonyl]amino}-4-(methoxymethoxy)butanoate (16.4 g, 100%).

reactant | tert-butyl (3S)-3-{[(benzyloxy)carbonyl]amino}-4-hydroxybutanoate | 46.1 mmol, 14.26 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(=O)OC(C)(C)C)CO | C16H23NO5
reactant | diisopropylethylamine | 138 mmol, 24 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chloromethyl methyl ether | 138 mmol, 105 ml | COCCl | C2H5ClO
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | dichloromethane | 190 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 2.3 mmol, 0.28 g | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl(3S)-3-{[(benzyloxy)carbonyl]amino}-4-(methoxymethoxy)butanoate | 16.4 g, 100% | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(=O)OC(C)(C)C)COCOC | C18H27NO6
